US08420823B2
(Step 1) Production of 5-isopropoxy-1H-pyrazole-3-amine
Methanesulfonic acid (25 mL) was added to a 2-propanol (250 mL) solution of 3-amino-5-hydroxypyrazolamine (25 g), and stirred at 120° C. for 2 days. The reaction liquid was left cooled, and the solvent was evaporated off under reduced pressure. Aqueous saturated sodium hydrogencarbonate solution was added to the residue, then extracted with ethyl acetate, and dried with sodium sulfate. The drying agent was removed through filtration, and the solvent was evaporated off under reduced pressure to give the intended product (5.35 g, 15%).

reactant | Methanesulfonic acid | 25 mL | CS(=O)(=O)O | CH4O3S
reactant | 3-amino-5-hydroxypyrazolamine | 25 g | NC1(N=NC(=C1)O)N | C3H6N4O
reactant | 2-propanol | 250 mL | CC(C)O | C3H8O
product | 5-isopropoxy-1H-pyrazole-3-amine | 5.35 g, 15% | C(C)(C)OC1=CC(=NN1)N | C6H11N3O
